US06316467B1
4-[(Aminothioxomethyl)-hydrazono]-N-(1,5-dimethylhexyl)-4-phenyl-butanamide
Thiosemicarbazide (1.32 g, 14.5 mmol) was added to a solution of N-(1,5-dimethyl-hexyl)-4-oxo4-phenyl-butyramide (2.54 g, 87.9 mmol), prepared in the previous step, in 30 ml of methanol plus 2.4 ml of 1 N HCl plus 2.4 ml of water and the reaction stirred at room temperature for 48 hours. The reaction was concentrated under reduced pressure to remove the methanol. The residue was partitioned between methylene chloride and water. The organic layer was separated, washed multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2.95 g of an off-white solid foam. Purification of this foam by chromatography on silica gel (230-400 mesh) using 3:1 hexane-ethyl acetate and then 3:1 ethyl acetate-methylene chloride as the eluted gave the title compound (2.63 g, 82%) as a white foam, mp 58-65° C.

reactant | Thiosemicarbazide | 14.5 mmol, 1.32 g | NNC(=S)N | CH5N3S
reactant | N-(1,5-dimethyl-hexyl)-4-oxo4-phenyl-butyramide | 87.9 mmol, 2.54 g | CC(CCCC(C)C)NC(CCC(C1=CC=CC=C1)=O)=O | C18H27NO2
reactant | HCl | 1 N, 2.4 ml | Cl | ClH
reactant | water | 2.4 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)-hydrazono]-N-(1,5-dimethylhexyl)-4-phenyl-butanamide | 2.95 g | NC(=S)NN=C(CCC(=O)NC(CCCC(C)C)C)C1=CC=CC=C1 | C19H30N4OS
